US06403601B1
N-[(S)-2-(3,4-Dichlorophenyl)4-[4-[(S)-2-methylsulfinylphenyl]-1-piperidinyl]butyl]-N-methyl-4-nitro-5,6,7,8-tetrahydro-1-naphthamide
Using a procedure analogous to that described in Example 3, N-[(S)-2-(3,4-dichlorophenyl)4-[4-[(S)-2-methylsulfinylphenyl]-1-piperidinyl]butyl]-N-methylamine was reacted with 4-nitro-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride [prepared from 4-nitro-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid (T. Nakayama, T. Okutome, R. Matsui, M. Kurumi, Y. Sakurai, T. Aoyama, S. Fujii, Chem. Pharm. Bull. 32(10) 3968 (1984))] and the product was converted to the citrate salt MS: m/z 656 (M+H). Analysis for C34H39Cl2N3O4S.C6H8O7.1.0H2O: calculated: C, 54.42; H, 5.70; N, 4.85. found: C, 55.03; H, 5.55; N, 4.94.

reactant | N-[(S)-2-(3,4-dichlorophenyl)4-[4-[(S)-2-methylsulfinylphenyl]-1-piperidinyl]butyl]-N-methylamine | ClC=1C=C(C=CC1Cl)[C@@H](CNC)CCN1CCC(CC1)C1=C(C=CC=C1)[S@@](=O)C | C23H30Cl2N2OS
reactant | 4-nitro-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride | [N+](=O)([O-])C1=CC=C(C=2CCCCC12)C(=O)Cl | C11H10ClNO3
product | N-[(S)-2-(3,4-Dichlorophenyl)4-[4-[(S)-2-methylsulfinylphenyl]-1-piperidinyl]butyl]-N-methyl-4-nitro-5,6,7,8-tetrahydro-1-naphthamide | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(=O)C1=CC=C(C=2CCCCC12)[N+](=O)[O-])C)CCN1CCC(CC1)C1=C(C=CC=C1)[S@@](=O)C | C34H39Cl2N3O4S
